US07820821B2
DIEA (0.7 mL, 3.6 mmol) was added to a solution of 2-bromo-1-(1H-indazol-6-yl)ethanone (3 mmol) and 4-amino-3-nitrobenzoic acid (0.643 g, 3.5 mmol) in DMF (10 mL) and the solution was stirred at room temperature for 2 h. NH4OAc (5 g, 65 mmol) was added to the solution, followed by HOAc (10 mL) and the mixture was stirred at 140° C. for 2 h. The mixture was cooled to room temperature and poured into H2O (30 mL). The precipitate was collected by filtration, washed with H2O (10 mL) and dried under reduced pressure to afford 4-[5-(1H-indazol-6-yl)-1H-imidazol-2-yl]-2-nitrophenylamine (0.56 g).

reactant | DIEA | 3.6 mmol, 0.7 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-bromo-1-(1H-indazol-6-yl)ethanone | 3 mmol | BrCC(=O)C1=CC=C2C=NNC2=C1 | C9H7BrN2O
reactant | 4-amino-3-nitrobenzoic acid | 3.5 mmol, 0.643 g | NC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H6N2O4
reactant | HOAc | 10 mL | CC(=O)O | C2H4O2
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | H2O | 30 mL | O | H2O
product | 4-[5-(1H-indazol-6-yl)-1H-imidazol-2-yl]-2-nitrophenylamine | 0.56 g | N1N=CC2=CC=C(C=C12)C1=CN=C(N1)C1=CC(=C(C=C1)N)[N+](=O)[O-] | C16H12N6O2
